US07091214B2
A solution of 7-bromo-2-ethoxymethyl-1-(piperidin-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine dihydrochloride (4.0 g, 8.1 mmol) and triethylamine (5.67 mL, 40.7 mmol) in chloroform (300 mL) was cooled to 0° C., and 4-morpholinecarbonyl chloride (0.95 mL, 8.1 mmol) was added dropwise. The reaction was allowed to warm to ambient temperature and stirred overnight before it was diluted with chloroform (200 mL); washed sequentially with water (200 mL), 2 M sodium carbonate (2×200 mL), water (200 mL), and brine (200 mL); and concentrated under reduced pressure. The residue was triturated with ethyl acetate and subsequently recrystallized from acetonitrile to provide 3.64 g of 7-bromo-2-ethoxymethyl-1-{[1-(morpholin-4-ylcarbonyl)piperidin-4-yl]methyl }-1H-imidazo[4,5-c]quinolin-4-amine as a white solid, mp 198–199° C.

reactant | 7-bromo-2-ethoxymethyl-1-(piperidin-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine dihydrochloride | 8.1 mmol, 4.0 g | Cl.Cl.BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC3CCNCC3)COCC
reactant | triethylamine | 40.7 mmol, 5.67 mL | C(C)N(CC)CC | C6H15N
reactant | 4-morpholinecarbonyl chloride | 8.1 mmol, 0.95 mL | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-bromo-2-ethoxymethyl-1-{[1-(morpholin-4-ylcarbonyl)piperidin-4-yl]methyl }-1H-imidazo[4,5-c]quinolin-4-amine | 3.64 g | BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC3CCN(CC3)C(=O)N3CCOCC3)COCC | C24H31BrN6O3
